US07342118B2
2-(4-[2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino]-2-methyl-imidazol-1-yl)-2-methyl-propionic acid methyl ester
2-(4-Amino-2-methyl-imidazol-1-yl)-2-methyl-propionic acid methyl ester was coupled with 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid to afford the title compound: C13 NMR (100 MHz, CDCl3) 13.8, 14.7, 18.9, 26.1, 26.7, 35.5, 42.9, 53.3, 61.1, 102.7, 105.3, 112.3, 112.5, 134.9, 138.9, 140.9, 169.5, 169.7, 173.4; MS m/z 451.2 (M+1).

reactant | 2-(4-Amino-2-methyl-imidazol-1-yl)-2-methyl-propionic acid methyl ester | COC(C(C)(C)N1C(=NC(=C1)N)C)=O | C9H15N3O2
reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)O)CCC | C13H15F2NO3
product | 2-(4-[2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino]-2-methyl-imidazol-1-yl)-2-methyl-propionic acid methyl ester | COC(C(C)(C)N1C(=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)C)=O | C22H28F2N4O4
